US07148226B2
3-benzyl-6-[2-(3-chloro-4-methoxyphenyl) ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione
DBU (28.6 ul, 0.191 mmol) was added to a solution of 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione (60.6 mg, 0.172 mmol) in benzene (2.0 ml), under an atmosphere of argon. Benzyl bromide (20.5 ul, 0.172 mmol) was then added. The reaction mixture was stirred at room temperature for 20 minutes, followed by the addition of 5 crystals of sodium iodide. The reaction mixture was stirred for a further 24 hrs, after which time the mixture was filtered through a plug of Celite. The filtrate was concentrated in vacuo and the residue purified by prep HPLC to afford the title compound as a white solid (11.1 mg).

reactant | DBU | 0.191 mmol, 28.6 ul | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 0.172 mmol, 60.6 mg | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | Benzyl bromide | 0.172 mmol, 20.5 ul | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium iodide | [I-].[Na+]
solvent | benzene | 2.0 ml | C1=CC=CC=C1 | C6H6
product | 3-benzyl-6-[2-(3-chloro-4-methoxyphenyl) ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 11.1 mg | C(C1=CC=CC=C1)C1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C26H29ClO4
